US03972932
1-(2,6-dichloro-4-tolyl)-2-aminoguanidine.HJ
To 7.18 g of 1-(2,6-dichloro-4-tolyl)-2-methylisothiourea.HJ (C), suspended in 26 ml of ethanol, 1.3 ml of hydrazine.hydrate is added after which the mixture is refluxed for 20 hours. The precipitate formed is filtered off and the filtrate evaporated to dryness. Yield: 6.35 g. Melting point HJ salt: 203°-205°C; melting point HCl salt: 149°-150°C.

reactant | 1-(2,6-dichloro-4-tolyl)-2-methylisothiourea | 7.18 g | ClC1=C(C(=CC(=C1)NC(SC)=N)Cl)C | C9H10Cl2N2S
reactant | hydrazine.hydrate | 1.3 ml | NN.O
solvent | ethanol | 26 ml | C(C)O | C2H6O
product | 1-(2,6-dichloro-4-tolyl)-2-aminoguanidine | ClC1=C(C(=CC(=C1)NC(=NN)N)Cl)C | C8H10Cl2N4
